### PR TITLE
[Merged by Bors] - feat: port Computability.Partrec

### PR DESCRIPTION
**Pull request by Komyyy**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Computability/Partrec.lean [hunk 1]
```diff
@@ -771,97 +763,103 @@ variable [Primcodable α] [Primcodable β] [Primcodable γ] [Primcodable σ]
...
 
 theorem option_some_iff {f : α →. σ} : (Partrec fun a => (f a).map Option.some) ↔ Partrec f :=
-  ⟨fun h => (Nat.Partrec.ppred.comp h).of_eq fun n => by simp [Part.bind_assoc, bind_some_eq_map],
+  ⟨fun h => (Nat.Partrec.ppred.comp h).of_eq fun n => by
+      simp [Part.bind_assoc]
+      conv_lhs =>
+        congr
+        · skip
+        · ext x
+          erw [bind_some_eq_map],
```
Comment (semorrison) [inline Mathlib/Computability/Partrec.lean:772]: Could we have a porting note here, noting the regression?

**Comment by semorrison** [comment]
bors merge
